US07132426B2
Preparation of 4-[1-(4-Methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidine-1-carboxylic acid 2-ethyl-butyl ester (Compound A119)
Di-imidazol-1-yl-methanone (0.51 mmol, 83 mg), and 2-ethyl-butan-1-ol (0.51 mmol, 52 mg) were dissolved in DMSO (1 mL) and stirred for 30 minutes at room temperature. Then, 1-(4-methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine (0.17 mmol, 70 mg) and triethylamine (0.51 mmol, 72 μL) were added and heated in a microwave at 120° C. for 6 minutes. The progress of the reaction was monitored by LCMS. The reaction mixture was quenched with water and the product was extracted with ethylacetate. Removal of organic solvents in vacuo and purification by HPLC provided Compound A119 as a white solid (38 mg, 36%). Exact mass calculated for C24H31N5O5S 501.60, found 502.3 (MH+).

reactant | Di-imidazol-1-yl-methanone | 0.51 mmol, 83 mg | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | 2-ethyl-butan-1-ol | 0.51 mmol, 52 mg | C(C)C(CO)CC | C6H14O
reactant | 1-(4-methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine | 0.17 mmol, 70 mg | CS(=O)(=O)C1=CC=C(C=C1)N1N=CC=2C1=NC=NC2OC2CCNCC2 | C17H19N5O3S
reactant | triethylamine | 0.51 mmol, 72 μL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 4-[1-(4-Methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidine-1-carboxylic acid 2-ethyl-butyl ester | 38 mg, 36% | C(C)C(COC(=O)N1CCC(CC1)OC1=C2C(=NC=N1)N(N=C2)C2=CC=C(C=C2)S(=O)(=O)C)CC | C24H31N5O5S
